US09233982B2
Step 1: 5-benzyl-6,7-dihydrobenzo[b]thiophen-4(5H)-one
6,7-Dihydrobenzo[b]thiophen-4(5H)-one (0.5 g, 3.3 mmol) in THF (7.5 mL) was added drop-wise to LDA (2.2 mL, 3.67 mmol) under a nitrogen atmosphere at −78° C. The mixture was warmed to −30° C. for 10 min before being re-cooled to −78° C. Benzyl bromide (1.17 mL, 9.9 mmol) was then added drop-wise and the mixture was gradually warmed to room temperature and stirred for 18 hr. Saturated ammonium chloride solution was added to the reaction mixture and product was extracted into ethyl acetate (×3). The combined organic extracts were combined, dried (MgSO4) and concentrated in vacuo. The crude residue was purified on silica gel using a gradient elution of 0-50% ethyl acetate in iso-hexane to afford the title compound as a yellow oil (0.55 g, 62%).

reactant | 6,7-Dihydrobenzo[b]thiophen-4(5H)-one | 3.3 mmol, 0.5 g | S1C2=C(C=C1)C(CCC2)=O | C8H8OS
reactant | LDA | 3.67 mmol, 2.2 mL | [Li+].CC(C)[N-]C(C)C
reactant | Benzyl bromide | 9.9 mmol, 1.17 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | 5-benzyl-6,7-dihydrobenzo[b]thiophen-4(5H)-one | 0.55 g, 62% | C(C1=CC=CC=C1)C1C(C2=C(SC=C2)CC1)=O | C15H14OS
